US09388189B2
(S)-2-(1-((5-(1-(2-Methoxybenzyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(1H-Pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (80 mg, 0.14 mmol) was dissolved in N,N-dimethylformamide (2.0 ml). 1-(Chloromethyl)-2-methoxybenzene (43 ml, 0.27 mmol) and cesium carbonate (200 mg, 0.61 mmol) were added and the mixture was stirred at 75° C. during 2 h. The reaction was poured into ice-water mixture, basified to pH 10 with sodium carbonate and extracted twice with ethyl acetate. The organics were combined and washed with water, brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The residue was purified using SP1® Purification System (0% to 30%, hexane-ethyl acetate) to give 86 mg (83% yield, 93% purity) of the title compound.

reactant | (S)-2-(1-((5-(1H-Pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.14 mmol, 80 mg | N1N=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C30H35N9O2Si
reactant | 1-(Chloromethyl)-2-methoxybenzene | 0.27 mmol, 43 ml | ClCC1=C(C=CC=C1)OC | C8H9ClO
reactant | cesium carbonate | 0.61 mmol, 200 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | (S)-2-(1-((5-(1-(2-Methoxybenzyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 83% yield | COC1=C(CN2N=C(C=C2)C2=CN(C=3N=CN=C(C32)N[C@@H](C)C3=NN2C(C(N3C3=CC=CC=C3)=O)=C(C=C2)C)COCC[Si](C)(C)C)C=CC=C1 | C38H43N9O3Si
